US04132731
N-(2-Hydroxypropyl)-2,4,6-triiodo-5-(2-methoxyethoxyacetamido)-isophthalamic Acid
At a maximum of 10° C. (ice cooling), 16.5 ml. of methoxyethoxyacetyl chloride is added dropwise within 30 minutes with agitation to 30.8 g. (50 mmol) of 5-amino-(2-hydroxypropyl)2,4,6-triiodoisophthalamic acid in 60 ml. of dimethylacetamide. The mixture is stirred for 1 hour at 0° C. and then for 16 hours at room temperature. Thereafter, another 2 ml. of the acid chloride is added thereto, and the mixture is stirred at room temperature for 4 hours. Then, 10 ml. of water is added and the mixture is concentrated under vacuum. The residue is dissolved in 350 ml. of water and neutralized with 32% sodium hydroxide solution. The mixture is combined with another 5 ml. of 32% sodium hydroxide solution and then stirred for some time after adding 5 g. of active carbon. After the carbon has been removed, the mixture is acidified with concentrated hydrochloric acid, allowed to stand for a period of time and vacuum-filtered. The resulting precipitate is dried under vacuum. Yield: 21.3 g. (58%), m.p. 275° C., with decomposition.

reactant | methoxyethoxyacetyl chloride | COCCOCC(=O)Cl | C5H9ClO3
reactant | 5-amino-(2-hydroxypropyl)2,4,6-triiodoisophthalamic acid | 50 mmol | NC=1C(=C(C(=C(C(=O)O)C1I)I)C(=O)NCC(C)O)I | C11H11I3N2O4
reactant | dimethylacetamide | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | N-(2-Hydroxypropyl)-2,4,6-triiodo-5-(2-methoxyethoxyacetamido)-isophthalamic Acid | OC(CNC(C=1C(=C(C(=O)O)C(=C(C1I)NC(COCCOC)=O)I)I)=O)C | C16H19I3N2O7
